US04885024
To a solution of 7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-ylhydrazine (2.5 g) and enaminoxime (2.5 g) in ethanol (50 g), acetic acid (0.1 g) was added, and the resultant mixture was heated under reflux for 3 hours. After completion of the reaction, water was added to the reaction mixture, and the precipitated crystals were collected by filtration and washed with ether to give 2-[2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime (4.0 g).

reactant | 7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-ylhydrazine | 2.5 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NN | C11H10FN3O2
reactant | acetic acid | 0.1 g | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | ethanol | 50 g | C(C)O | C2H6O
product | 2-[2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime | 4.0 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NNC1C(CCCC1)=NO | C17H19FN4O3
